US07112582B2
tert-butyl 2-(formyl)-6,7-dihydrothieno[3,2-c]pyridine-5(4H)-carboxylate was prepared according to the procedure outlined in Example 1, (Step 3). Starting from tert-butyl 2-(hydroxymethyl)-6,7-dihydrothieno[3,2-c]pyridine-5(4H)-carboxylate (1.0 g 3.7 mmol) in methylene chloride (100 ml) and active MnO2 (5 g, excess), 800 g (81% Yield) of the aldehyde derivative was isolated as brown solid. (M+H) 268.

reactant | tert-butyl 2-(hydroxymethyl)-6,7-dihydrothieno[3,2-c]pyridine-5(4H)-carboxylate | 3.7 mmol, 1.0 g | OCC1=CC=2CN(CCC2S1)C(=O)OC(C)(C)C | C13H19NO3S
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | MnO2 | 5 g | O=[Mn]=O
product | tert-butyl 2-(formyl)-6,7-dihydrothieno[3,2-c]pyridine-5(4H)-carboxylate | C(=O)C1=CC=2CN(CCC2S1)C(=O)OC(C)(C)C | C13H17NO3S
